US07405305B2
b) Benzyl-(1H-indol-7-ylmethyl)carbamic acid tert-butyl ester
Add triethylamine (24 mL, 172 mmol), di-tert-butyl dicarbonate (12.4 g, 57.2 mmol) and 4-dimethylaminopyridine (0.7 g, 5.7 mmol) to a solution of benzyl-(1H-indol-7-ylmethyl)amine (13.5 g, 57.2 mmol) in dichloromethane. Stir at ambient temperature for 2 hours. Evaporate the solvent and purify the residue by chromatography (silica gel; hexane/ethyl acetate; 1:0 to 1:1) to yield a solid (10.0 g, 52%). MS ESI) m/z 337 (M+H)+.

reactant | triethylamine | 172 mmol, 24 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 57.2 mmol, 12.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyl-(1H-indol-7-ylmethyl)amine | 57.2 mmol, 13.5 g | C(C1=CC=CC=C1)NCC=1C=CC=C2C=CNC12 | C16H16N2
catalyst | 4-dimethylaminopyridine | 5.7 mmol, 0.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl-(1H-indol-7-ylmethyl)carbamic acid tert-butyl ester | 10.0 g, 52% | C(C)(C)(C)OC(N(CC=1C=CC=C2C=CNC12)CC1=CC=CC=C1)=O | C21H24N2O2
